US08557983B2
5-bromo-6-chloropyridine-3-sulfonamide
5-Bromo-6-chloropyridine-3-sulfonyl chloride (8.2 g) in methanol (20 mL) was cooled to 0° C. To this solution was added 7N NH3 in methanol (80 mL). The reaction mixture was stirred overnight. The solvent was removed at low temperature, and the residue was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate three times. The combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated. The residue was purified by flash column chromatography on silica gel to give the product.

reactant | 5-Bromo-6-chloropyridine-3-sulfonyl chloride | 8.2 g | BrC=1C=C(C=NC1Cl)S(=O)(=O)Cl | C5H2BrCl2NO2S
reactant | NH3 | 7N | N | H3N
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 80 mL | CO | CH4O
product | 5-bromo-6-chloropyridine-3-sulfonamide | BrC=1C=C(C=NC1Cl)S(=O)(=O)N | C5H4BrClN2O2S
